US06562828B1
8-Methoxy-2,3,4,5-tetrahydrobenz[c]azepin-1-one
To a solution of 7-methoxy-1,2,3,4-tetrahydronaphthalen-1-one (5.21 g) in conc. hydrochloric acid (26 ml) was added sodium azide (1.98 g) by portions with ice-cooling, and the mixture was stirred at the same temperature for 2 hours, and then at room temperature for 2 hours. After completion of the reaction, the reaction mixture was poured into ice water and aqueous potassium carbonate was added. The mixture was extracted with chloroform and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (ethyl acetate) and dried under reduced pressure to give the title compound (470 mg).

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalen-1-one | 5.21 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | sodium azide | 1.98 g | [N-]=[N+]=[N-].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 26 ml | Cl | ClH
product | 8-Methoxy-2,3,4,5-tetrahydrobenz[c]azepin-1-one | 470 mg | COC=1C=CC2=C(C(NCCC2)=O)C1 | C11H13NO2
